US07109225B2
b] 2-(2,2-Dimethyl-propionylamino)-pent-4-enoic acid ethyl ester
13.06 g of the above prepared (2,2-dimethyl-propionylamino)-acetic acid ethyl ester (69.75 mmol) was dissolved in 350 ml of abs. THF and cooled down to −78°. 146 ml of 1M lithium hexamethyldisilazide in THF (2.1 eq.) were slowly added via dropping funnel. After keeping the yellow suspension for 30 Min. at −78°, 6.491 ml of allyl bromide (1.1 eq.) was added and stirring continued for 15 Min. at the same temperature and for 40 Min. at 0°. Pouring of the homogeneous reaction mixture onto crashed ice/HCl, twofold extraction with AcOEt, twofold washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=8/2) afforded 10.50 g of the title compound as colorless solid. In addition, 2.70 g of the di-allylated product (2-allyl-2-(2,2-dimethyl-propionylamino)-pent-4-enoic acid ethyl ester) was obtained from the less polar fractions.

reactant | (2,2-dimethyl-propionylamino)-acetic acid ethyl ester | 69.75 mmol | C(C)OC(CNC(C(C)(C)C)=O)=O | C9H17NO3
reactant | lithium hexamethyldisilazide | 1M, 146 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl bromide | 6.491 ml, 1.1 eq. | C(C=C)Br | C3H5Br
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2.1 eq. | C1CCOC1 | C4H8O
product | 2-(2,2-Dimethyl-propionylamino)-pent-4-enoic acid ethyl ester | 10.50 g | C(C)OC(C(CC=C)NC(C(C)(C)C)=O)=O | C12H21NO3
